US04496390
2,3,4-Trichlorophenylhydrazine (21.15 g) was added in portions to a refluxing solution of ethoxymethylenemalononitrile (12.2 g) in ethanol (100 ml). The solution obtained was then heated at reflux for one hour, cooled and evaporated to dryness. The residue thus obtained was triturated with diethyl ether (100 ml) to give 5-amino-4-cyano-1-(2,3,4-trichlorophenyl)pyrazole (12.6 g), m.p. 158°-160° C., in the form of light brown crystals.

reactant | 2,3,4-Trichlorophenylhydrazine | 21.15 g | ClC1=C(C=CC(=C1Cl)Cl)NN | C6H5Cl3N2
reactant | ethoxymethylenemalononitrile | 12.2 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-amino-4-cyano-1-(2,3,4-trichlorophenyl)pyrazole | 12.6 g | NC1=C(C=NN1C1=C(C(=C(C=C1)Cl)Cl)Cl)C#N | C10H5Cl3N4
